US07713994B2
To a solution of (2-methoxy-ethyl)-methyl-(4-nitro-benzyl)-amine, from step 1, (56 mg, 0.25 mmol) is added methanol (1 mL), hydrazine (33 μL), and Raney-Nickel (10 mg). The reaction mixture is shaken at room temperature for 16 hours, then filtered and the solution concentrated to yield 4-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-phenylamine, which is used as such for the subsequent reaction.

reactant | (2-methoxy-ethyl)-methyl-(4-nitro-benzyl)-amine | COCCN(CC1=CC=C(C=C1)[N+](=O)[O-])C | C11H16N2O3
reactant | hydrazine | 33 μL | NN | H4N2
catalyst | Raney-Nickel | 10 mg | [Ni] | Ni
solvent | methanol | 1 mL | CO | CH4O
product | 4-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-phenylamine | COCCN(C)CC1=CC=C(C=C1)N | C11H18N2O
